US08492392B2
[2-(6-chloropyridin-3-yl)-4-(2-methoxyethoxy)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl](pyrazolo[1,5-a]pyridin-3-yl)methanone (O-2)
A suspension of the pyrazolo[1,5-a]pyridine-3-carboxylic acid (9.45 g, 58.3 mmol) and N,N-dimethylformamide (0.451 mL, 5.83 mmol) in CH2Cl2 (600 mL) was cooled to 0° C. and treated slowly with oxalyl chloride (7.65 mL, 87 mmol). The mixture was removed from the cold bath and stirred at room temperature for 2.5 h. An LC-MS sample with added pyrrolidine indicated no residual starting material. The mixture was filtered through filter paper to remove undissolved precipitates and then concentrated in vacuo to afford the crude acid chloride as a tan solid. This tan solid was re-dissolved in CH2Cl2 (300 mL), and added via an addition funnel over two minutes to a stirring solution of 2-(6-chloropyridin-3-yl)-4-(2-methoxyethoxy)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine (16.08 g, 115 mmol) in CH2Cl2 (300 mL) at 0° C. The reaction mixture was removed from the cold bath and stirred for 30 min. The reaction mixture was diluted with CH2Cl2 (1.2 L) and washed with water (1.5 L) and sat. aq. NaHCO3 (1.5 L). The organic phase was washed with brine (1 L) and the aqueous phases were back-extracted with CH2Cl2 (0.5 L). The combined organics were dried over Na2SO4, filtered, and concentrated in vacuo. The resulting orange amorphous foam was purified by gradient elution on silica gel 0 to 50% [10% MeOH in DCM] in DCM. The isolated amorphous material was diluted with EtOAc (600 mL) and crystallized out of solution at room temperature. The mixture was stirred at 60° C. for 45 min and concentrated to dryness to drive all of the amorphous material to the crystalline form. The now crystalline material was stirred with diethyl ether (1 L) for 30 min at room temperature and then triturated. The resulting white solid was washed with diethyl ether (3×100 mL) and dried to afford the title compound as a white crystalline solid (25.16 g, 94%). Data for O-2: 1H NMR (500 MHz, CDCl3) δ 9.16 (d, J=2.4, 1H), 8.61 (dd, J=8.3, 2.5 Hz, 1H), 8.53 (d, J=6.8, 1H), 8.18 (s, 1H), 8.06 (d, J=8.8 Hz, 1H), 7.41 (d, J=8.3 Hz, 1H), 7.35 (td, J=7.9, 1.0 Hz, 1H), 6.95 (td, J=7.0, 1.2 Hz, 1H), 4.89 (s, 2H), 4.68 (t, J=4.8 Hz, 2H), 4.10 (t, J=5.9 Hz, 2H), 3.80 (t, J=4.8 Hz, 2H), 3.44 (s, 3H), 3.11 (t, J=5.7, 2H); HRMS m/z (M+H) 465.1446 found, 465.1436 required.

reactant | pyrazolo[1,5-a]pyridine-3-carboxylic acid | 58.3 mmol, 9.45 g | N1=CC(=C2N1C=CC=C2)C(=O)O | C8H6N2O2
reactant | N,N-dimethylformamide | 5.83 mmol, 0.451 mL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 87 mmol, 7.65 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(6-chloropyridin-3-yl)-4-(2-methoxyethoxy)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | 115 mmol, 16.08 g | ClC1=CC=C(C=N1)C=1N=C(C2=C(N1)CCNC2)OCCOC | C15H17ClN4O2
solvent | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | [2-(6-chloropyridin-3-yl)-4-(2-methoxyethoxy)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl](pyrazolo[1,5-a]pyridin-3-yl)methanone | 25.16 g, 94% | ClC1=CC=C(C=N1)C=1N=C(C2=C(N1)CCN(C2)C(=O)C=2C=NN1C2C=CC=C1)OCCOC | C23H21ClN6O3
